US08017630B2
2-[2-(4-Dimethylamino-4-phenylcyclohexylidene)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester hydrochloride (less polar diastereoisomer; Example 2)
2-[2-(4-Dimethylamino-4-phenylcyclohexylidene)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester (142 mg, 0.3 mmol) was dissolved in ethyl methyl ketone (9 ml), and chlorotrimethylsilane (0.055 ml, 0.43 mmol) was added. After 2 h it was possible to obtain the product as a colourless compound in a yield of 50 mg (15%) with an m.p. of 164-168° C.

reactant | 2-[2-(4-Dimethylamino-4-phenylcyclohexylidene)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester | 0.3 mmol, 142 mg | COC(C(CC1=CNC2=CC=CC=C12)NC(C=C1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O)=O | C28H33N3O3
reactant | chlorotrimethylsilane | 0.43 mmol, 0.055 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | 9 ml | CC(=O)CC | C4H8O
product | 2-[2-(4-Dimethylamino-4-phenylcyclohexylidene)acetylamino]-3-(1H-indol-3-yl)propanoic acid methyl ester hydrochloride | Cl.COC(C(CC1=CNC2=CC=CC=C12)NC(C=C1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O)=O | InChI=1S/C28H33N3O3.ClH/c1-31(2)28(22-9-5-4-6-10-22)15-13-20(14-16-28)17-26(32)30-25(27(33)34-3)18-21-19-29-24-12-8-7-11-23(21)24;/h4-12,17,19,25,29H,13-16,18H2,1-3H3,(H,30,32);1H
